US04620012
(a) 2-Cyano-2-(1,3-dioxolan-2-yl)methylbicyclo[2.2.1]heptane
7.2 g of norbornane-2-carbonitrile are reacted with 60 mmoles of lithium diisopropylamide (prepared from 8.2 ml of diisopropylamine and 40 ml of n-butyllithium) and with 7 g of 2-bromomethyl-1,3-dioxolane in analogy to Example 1a. After chromatography on silica gel with ethyl acetate/cyclohexane (1:6) as the mobile phase, 8.0 g of the title compound are obtained as an oil.

reactant | norbornane-2-carbonitrile | 7.2 g | C12C(CC(CC1)C2)C#N | C8H11N
reactant | lithium diisopropylamide | 60 mmoles, 8.2 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-bromomethyl-1,3-dioxolane | 7 g | BrCC1OCCO1 | C4H7BrO2
solvent | ethyl acetate cyclohexane | C(C)(=O)OCC.C1CCCCC1
product | 2-Cyano-2-(1,3-dioxolan-2-yl)methylbicyclo[2.2.1]heptane | 8.0 g | C(#N)C1(C2CCC(C1)C2)CC2OCCO2 | C12H17NO2
